US06432948B1
7-Chloro-8-cyano-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
33.8 g (0.1 mol) of ethyl 7-chloro-8-cyano-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate are heated under reflux for 3 hours in a mixture of 100 ml of acetic acid, 20 ml of water and 10 ml of concentrated sulphuric acid. After cooling, the mixture is poured onto 100 ml of ice water, and the deposited precipitate is filtered off with suction, washed with water and ethanol and dried in vacuo at 60° C.

reactant | ethyl 7-chloro-8-cyano-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 0.1 mol, 33.8 g | ClC1=C(C=C2C(C(=CN(C2=C1C#N)C1CC1)C(=O)OCC)=O)F | C16H12ClFN2O3
reactant | water | 20 ml | O | H2O
reactant | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 7-Chloro-8-cyano-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | ClC1=C(C=C2C(C(=CN(C2=C1C#N)C1CC1)C(=O)O)=O)F | C14H8ClFN2O3
